Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]([O:4][H:5])=[C:6]=[C:7]([H:8])[H:9]>>[H:1][O:2][C:3]([O:4][H:5])=[C:6]([C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-1.77145988345
[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:3].[O:1]=[C:2]=[C:4]([H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],1.46791171385
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([O:8][H:9])[O:10][H:11]>>[C:7]([O:8][H:9])[O:10][H:11].[H:1][C:2]#[C:3][C:4]([H:5])[H:6],1.7596161546
[C:1]#[C:2][C:3]([C:4]([O:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1][C:2]#[C:3][C:8]([H:9])([H:10])[H:11].[C:4](=[O:5])([H:6])[H:7],0.4653087091399999
[H:10].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]=[C:11]([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-4.74670096456
[C:1]=[C:2]([C:3]([H:4])[C:5]([H:6])([H:7])[H:8])[C:9](=[O:10])[H:11]>>[C:1].[C:2](=[C:3](/[H:4])[C:5]([H:6])([H:7])[H:8])\[C:9](=[O:10])[H:11],4.75160560963
[H:1][C:2][O:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:1][C:2][O:3][C:4]([H:5])[H:6].[O:7]=[C:8]([H:9])[C:10]([H:11])[H:12],2.75170282297
[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[C:11]([H:12])[H:13].[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10],5.27090906194
[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])([H:7])[H:8])[C:13]([C:10]([O:9])([H:11])[H:12])([H:14])[H:15]>>[H:1][C:2]([H:3])[C@:4]1([C:5]([H:6])([H:7])[H:8])[O:9][C:10]([H:11])([H:12])[C:13]1([H:14])[H:15],0.0397689965101999
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:7],4.88739902061
[H:1][C:2]=[C:3]([H:4])[H:5].[O:6][O:7][C:8]#[C:9][H:10]>>[H:1][C:2][C:3]([H:4])([H:5])[O:6][O:7][C:8]#[C:9][H:10],-0.340057424389
[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]=[C:3]([H:4])[H:5].[O:6][C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14],0.583574950941
[C:9]([H:10])[H:11].[H:1][O:2][C:3][O:4][C:5]=[C:6]([H:7])[H:8]>>[H:1][O:2][C:3][O:4][C:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11],-3.29327293711
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])=[C:7][H:8]>>[H:4].[O:1]=[C:2]([H:3])[C:5]([H:6])=[C:7][H:8],0.975159100176
[H:16].[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.56393117655
[H:1][C:2]([H:3])[O:4][C:5]=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2][O:4][C:5]=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:3],4.67569469095
[H:1][C:2][H:3].[O:4][C:5]([H:6])([H:7])[C:8][O:9][C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8][O:9][C:10]([H:11])([H:12])[H:13],-5.18807204319
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18].[H:8],4.45090616557
[H:1][C:2]#[C:3][C:4][O:5][H:6]>>[C:4][O:5][H:6].[H:1][C:2]#[C:3],5.03761299227
[H:1][O:2][C:3][C:5]([H:6])([H:7])[C:8]([O:9][H:10])=[C:11]([H:12])[H:13].[H:4]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([O:9][H:10])=[C:11]([H:12])[H:13],-3.61579495823
[H:1][C:2]=[C:3]=[C:4][C:5]([H:6])([H:7])[C:8][O:9][H:10]>>[C:3]#[C:4][C:5]([H:6])([H:7])[C:8][O:9][H:10].[H:1][C:2],7.450241891880001
[C:9]([H:10])([H:11])[O:12][C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[H:8]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])([H:15])[H:16],-3.79759556994
[H:11].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([C:7]([H:8])=[C:9][H:10])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]=[C:3]([H:4])[C@@:5]([H:6])([C:7]([H:8])=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-4.96995611591
[C:13]([H:14])[H:15].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[O:11][H:12]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C@:9]([H:10])([O:11][H:12])[C:13]([H:14])[H:15],-5.00315279115
[C:3]#[C:4][H:5].[O:1]=[C:2]=[C:6]([H:7])[C:8]([H:9])[H:10]>>[O:1]=[C:2]([C:3]#[C:4][H:5])[C:6]([H:7])=[C:8]([H:9])[H:10],-4.99299269078
[C:1]#[C:2].[C:3]([H:4])=[C:5]([H:6])[C:7]([O:8])([H:9])[H:10]>>[C:1]#[C:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([O:8])([H:9])[H:10],-6.04289460939
[H:1].[O:2][C:3]([H:4])([H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-4.59441241915
[O:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7][H:8]>>[H:3].[O:1]=[C:2]=[C:4]([H:5])[O:6][C:7][H:8],2.51097655489
